2113-12-08 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Seizures
   24 Hour Events:
   - LP performed by Neurology
   --Tube 1: WBC 6 RBC 612
   --Tube 4: WBC 2 RBC 64
   --Protein 24, Glucose 60
   --Gram stain negative
   - Continuous EEG placement this morning
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-8**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 81 (77 - 97) bpm
   BP: 104/64(71) {104/52(66) - 156/78(100)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                     38 mL
                                                                    356 mL
   PO:
             TF:
   IVF:
                                                                     38 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    620 mL
   Urine:
                                                                    445 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -407 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/48/105/30/7
   Ve: 6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , Rhonchorous: Few scattered rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   380 K/uL
   9.4 g/dL
   81 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   12 mg/dL
   97 mEq/L
   134 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
   WBC
   10.2
   8.9
   Hct
   27.2
   27.5
   Plt
   404
   380
   Cr
   0.7
   0.7
   TCO2
   34
   Glucose
   99
   81
   Other labs: PT / PTT / INR:14.3/27.0/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:82.9 %, Lymph:10.9 %, Mono:3.1 %,
   Eos:2.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with presumed nonconvulsive status and fevers.
   # Seizures: OSH EEG x 3 have shown persistent epileptiform activity
   from a focus in the left cerebral hemisphere, without ability for
   continuous EEG monitoring - unclear timing of EEG with regard to
   convulsive episodes.  Unclear etiology.  Her prior CVA are likely
   resposible.  There were electrolyte abnormalities on admission,
   however, the patient persisted with seizures after correction.  She had
   no history of head trauma and CT head x 2 showed multiple old ischemic
   changes but no new process.  Patient has history of cancer and may have
   metastasis - MRI was not performed.  Infectious evaluation as below -
   no lumbar puncture performed.  Home medications not known to contribute
   to seizure activity.  No report of toxicology screen on admission to
   OSH.
   - Neurology consult; appreciate
   - Unable to obtain continuous EEG overnight but will start in the
   morning
   - Continue phenytoin, and phenobarbital; check levels for goal dilantin
   15-20 corrected for albumin
   - Will give vancomycin, ceftriaxone, ampicillin, and acyclovir
   overnight for potential meningitis pending lumbar puncture
   - Lumbar puncture - attempted but unsuccessful and will need to perform
   with Neurology in the morning
   - Check chest x-ray, repeat urine and blood cultures
   - MRI/A head
   - TTE with bubble study to exclude clot
   # Fevers, leukocytosis: Unclear etiology - seizures versus infection.
   BAL from admission grew only yeast.  Urine and blood cultures
   negative.  RIJ in place since [**12-2**] without erythema or discharge.
   Patient initially on diflucan, ceftriaxone, and clindamycin for
   aspiration, but changed to zosyn and linezolid at some point prior to
   transfer.  Patient has not received an LP.
   - Will give vancomycin, ceftriaxone, ampicillin, and acyclovir
   overnight for potential meningitis pending lumbar puncture
   - Lumbar puncture
   - Chest x-ray
   - Sputum, urine, blood cultures
   - Consider changing RIJ tomorrow
   # Respiratory failure: Intubated for airway protection in the setting
   of aspiration.  Was treated for aspiration pneumonia with ceftriaxone
   and clindamycin for an unknown course.  Chest x-ray on admission here
   with question retrocardiac opacity.  No other known pulmonary disease.
   Good gag with suction.
   - Sputum culture
   - Repeat chest x-ray
   - Change to pressure support overnight
   - Consider extubation if EEG negative for nonconvulsive status and no
   pulmonary infection
   # Anemia: Normocytic.  Hematocrit trending down at OSH from 37 to 32.
   Guaiac negative on admission.  No signs or symptoms of active
   bleeding.
   - Guaiac all stools
   - Transfuse hematocrit < 21 or active bleeding
   - Monitor
   # Atrial flutter: Rate-controlled with digoxin and diltiazem.  Has not
   been anticoagulated recently - CHADS 2 score 0-2 (unclear etiology of
   CVA).
   - Continue digoxin and diltiazem for rate control
   - Continue to hold systemic anticoagulation
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s).
   - Check TSH, free T4
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-12-7**] 09:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-12-08 10:10:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old woman with PMH of multiple CVA and Squamous cell carcinoma
   of the left tonsil s/p chemo radition in [**1-27**]. Presented to OSH on
   [**11-30**] after being found unresponsive at home. Seizing on arrival to OSH
   ED and fiber opticly intubated. Head CT negative at OSH. Of note,
   febrile to 102 at OSH with leukocytosis. EEG x 2 at OSH with persistent
   epileptiform activity and transfered to [**Hospital1 1**].
   24 Hour Events:
   LP this AM negative for meningitis
   Dilantin slightly supertherapeutic this am
   EEG - results pending
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-8**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 74 (74 - 97) bpm
   BP: 126/69(84) {104/52(66) - 156/78(100)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                     38 mL
                                                                    941 mL
   PO:
             TF:
   IVF:
                                                                     38 mL
                                                                    821 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                  1,057 mL
   Urine:
                                                                    445 mL
                                                                  1,057 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -407 mL
                                                                   -116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/48/105/30/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No(t) Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : ,
   Diminished: L base)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   380 K/uL
   81 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   12 mg/dL
   97 mEq/L
   134 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
   WBC
   10.2
   8.9
   Hct
   27.2
   27.5
   Plt
   404
   380
   Cr
   0.7
   0.7
   TCO2
   34
   Glucose
   99
   81
   Other labs: PT / PTT / INR:14.3/27.0/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:82.9 %, Lymph:10.9 %, Mono:3.1 %,
   Eos:2.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68 year old woman with PMH of CVA, Sq Cell [**Hospital **] transferred from OSH with
   fever and seizure. LP negative but after several days of antibiotics.
   Persistent seizure activity
   at OSH , concern for non-convulsive status. Now on continous EEG
   monitoring. Awaiting MRI. Dilantin loaded. Will continue empiric
   regimen of vanc/ceftriaxone/ampicillin but suspect CVA, possibly
   from cardioembolic source. Will restart systemic anticoagulation today.
   check TTE with bubble. Pan-cultured for fever at OSH. Will change RIJ
   today. Possible retro-cardiac opacitiy on CXR but
   excellent gas exchange. Will change to PS today, but will need to
   settle neuro issues befroe making decisions about weaning sedation.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds currently on hold
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-12-7**] 09:39 PM
   18 Gauge - [**2113-12-8**] 08:39 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2113-12-09 09:32:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old woman with PMH of multiple CVA and squamous cell of the
   neck who is transfered from OSH with seizure and possible status
   epilepticus. EEG yesterday with no evidecne of ongoing seizure
   activity. MRI, TTE pending for w/u of possible new CVA as etiology of
   seizure.
   24 Hour Events:
 EEG - At [**2113-12-8**] 08:15 AM
 MULTI LUMEN - START [**2113-12-8**] 01:10 PM
 TRANSTHORACIC ECHO - At [**2113-12-8**] 02:00 PM
 MULTI LUMEN - STOP [**2113-12-8**] 04:30 PM
 EEG - At [**2113-12-8**] 07:00 PM
   continous EEG interrupted for MRI, prelim no evidence of seizure
   activity
 MAGNETIC RESONANCE IMAGING - At [**2113-12-8**] 07:50 PM
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-8**] 10:00 PM
   Ceftriaxone - [**2113-12-9**] 12:00 AM
   Acyclovir - [**2113-12-9**] 01:00 AM
   Ampicillin - [**2113-12-9**] 06:00 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-9**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 96 (85 - 115) bpm
   BP: 120/68(79) {100/50(63) - 150/75(93)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,924 mL
                                                                    874 mL
   PO:
             TF:
                                                                     23 mL
                                                                    122 mL
   IVF:
                                                                  1,660 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  2,207 mL
                                                                  1,215 mL
   Urine:
                                                                  2,207 mL
                                                                  1,215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/45/119/34/10
   Ve: 6.6 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  faint mottling on feet and knees
   Neurologic: Responds to: Noxious stimuli, Movement
 mpoves all limbs
   but no purposefully
   Labs / Radiology
   9.9 g/dL
   499 K/uL
   106 mg/dL
   0.6 mg/dL
   34 mEq/L
   2.9 mEq/L
   10 mg/dL
   94 mEq/L
   136 mEq/L
   28.3 %
   10.3 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
   WBC
   10.2
   8.9
   10.3
   Hct
   27.2
   27.5
   28.3
   Plt
   [**Telephone/Fax (3) 2993**]99
   Cr
   0.7
   0.7
   0.6
   TCO2
   34
   35
   35
   Glucose
   99
   81
   106
   Other labs: PT / PTT / INR:13.8/45.8/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:82.9 %, Lymph:10.9 %, Mono:3.1 %,
   Eos:2.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68 year old woman with PMH as above transfered from OSH with seizure.
   1. Seizures: No evidence of status, MRI read pending to r/o new CVA.
   Anticoagulated on heparin for afib, on asa and allowing BP to
   autoregulate for now. Fever in association with her seizure at the OSH,
   LP negative here but obtained after > 72 hours of abxso completing
   empiric course of vanc/ceftriaxone and acyclovir. Will DC acyclovir if
   MRI negative for encephalitis. Continue dilantin. DC phenobarb and
   propofol today
 in discussion with Neurology.
   2. Resp Failure:  Small RLL GGO on CXR and Spare staph in sputum (sensi
   pending and on Vanco) but good gas exchange, will try to convert to PSV
   and re evaluate as we wean phenobarb and prop MS may improve.
   3. Fever: persistent low grade, pan cx
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2113-12-8**] 07:30 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2113-12-8**] 08:39 AM
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-12-09 09:36:00 Physician Resident Progress Note
Chief Complaint: seizure
   24 Hour Events:
 EEG - * 24 hours
 MULTI LUMEN - NEW LEFT IJ PLACED
 TRANSTHORACIC ECHO - At [**2113-12-8**] 02:00 PM -- "Mild symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. Mild mitral regurgitation. Mild
   pulmonary hypertension."
 MAGNETIC RESONANCE IMAGING - At [**2113-12-8**] 07:50 PM
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-8**] 10:00 PM
   Ceftriaxone - [**2113-12-9**] 12:00 AM
   Acyclovir - [**2113-12-9**] 01:00 AM
   Ampicillin - [**2113-12-9**] 06:00 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-12-9**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 96 (85 - 115) bpm
   BP: 120/68(79) {100/50(63) - 150/75(93)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,924 mL
                                                                    875 mL
   PO:
             TF:
                                                                     23 mL
                                                                    123 mL
   IVF:
                                                                  1,660 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  2,207 mL
                                                                  1,215 mL
   Urine:
                                                                  2,207 mL
                                                                  1,215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/45/119/34/10
   Ve: 6.6 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, large tongue
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   499 K/uL
   9.9 g/dL
   106 mg/dL
   0.6 mg/dL
   34 mEq/L
   2.9 mEq/L
   10 mg/dL
   94 mEq/L
   136 mEq/L
   28.3 %
   10.3 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
   WBC
   10.2
   8.9
   10.3
   Hct
   27.2
   27.5
   28.3
   Plt
   [**Telephone/Fax (3) 2993**]99
   Cr
   0.7
   0.7
   0.6
   TCO2
   34
   35
   35
   Glucose
   99
   81
   106
   Other labs: PT / PTT / INR:13.8/45.8/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:82.9 %, Lymph:10.9 %, Mono:3.1 %,
   Eos:2.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   CXR: right lower lobe ground glass, and left basilar atelectasis
   Microbiology: Sputum, Blood, CSF and Urine cultures all negative
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 have shown persistent epileptiform activity
   from a focus in the left cerebral hemisphere, without ability for
   continuous EEG monitoring
 unclear timing of EEG with regard to
   convulsive episodes.  Unclear etiology.  Her prior CVA are likely
   responsible.  There were electrolyte abnormalities on admission,
   however, the patient persisted with seizures after correction.  She had
   no history of head trauma and CT head x 2 showed multiple old ischemic
   changes but no new process.  Patient has history of cancer and may have
   metastasis
 MRI was not performed at OSH.  Infectious evaluation as
   below
 LP not performed at OSH, LP negative on admission here,
   although has been on antibiotics.  Home medications not known to
   contribute to seizure activity.  No report of toxicology screen on
   admission to OSH. No clot by ECHO.
   - Neurology recs appreciated
   - Continuous EEG
   - Continue phenytoin
   - ? Discontinue Phenobarbital to help with sedation
   - Vancomycin, ceftriaxone, ampicillin for empiric course and on
   acyclovir pending MRI
   - F/U MRI/A head
   # Fevers, leukocytosis: Unclear etiology - seizures versus infection.
   OSH BAL from admission grew only yeast, urine and blood cultures
   negative.  RIJ in place since [**12-2**] without erythema or discharge.
   Patient initially on diflucan, ceftriaxone, and clindamycin for
   aspiration, but changed to zosyn and linezolid at some point prior to
   transfer.  Patient has not received an LP. . Changed OSH RIJ
   - Will give vancomycin, ceftriaxone, ampicillin, and acyclovir
   - Lumbar puncture [**12-8**] negative
   - Chest x-ray ground glass at right lung, f/u sputum
   - Sputum, urine, blood cultures - NGTD
   # Respiratory failure: Intubated for airway protection in the setting
   of aspiration.  Was treated for aspiration pneumonia with ceftriaxone
   and clindamycin for an unknown course.  Chest x-ray on admission here
   with question retrocardiac opacity but excellent gas exchange and
   negative sputum.  No other known pulmonary disease.  Good gag with
   suction.
   - PS, RISBI 120
 attempt to wean sedation and talk to neurology re:
   phenobarbitol
   # Atrial flutter: Rate-controlled with digoxin and diltiazem.  Has been
   off recent anticoagulation.
   - Continue digoxin and diltiazem for rate control
   - On heparin gtt , given high CHADS scare
   # Anemia: Normocytic.  Hematocrit trending down at OSH from 37 to 32.
   Guaiac negative on admission.  No signs or symptoms of active
   bleeding.
   - Guaiac all stools
   - Transfuse hematocrit < 21 or active bleeding
   - Monitor
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition: - replete K+, giving 1 lL normal saline given hypochloremia
   Replete with Fiber (Full) - [**2113-12-8**] 07:30 PM 20 mL/hour
   Glycemic Control: insulin
   Lines:
   18 Gauge - [**2113-12-8**] 08:39 AM
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition:ICU

2113-12-10 11:02:00 Physician Resident Progress Note
Chief Complaint: seizures
   24 Hour Events:
   started regular insulin sliding scale
   EEG - no seizure, mild encephalopathy
   MRI ? new left frontal cortical stroke
   stopped phenobarbital b/c no seizure on EEG
   patient became agitated, but did not wake-up with propofol off,
   restarted low dose propofol
   repleted K
   stopped acyclovir given MRI neg for encephalitis
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Acyclovir - [**2113-12-9**] 10:00 AM
   Ceftriaxone - [**2113-12-10**] 12:00 AM
   Ampicillin - [**2113-12-10**] 04:04 AM
   Vancomycin - [**2113-12-10**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-12-10**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 90 (79 - 104) bpm
   BP: 136/59(78) {121/58(69) - 169/85(103)} mmHg
   RR: 28 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  3,797 mL
                                                                  1,284 mL
   PO:
             TF:
                                                                    641 mL
                                                                    441 mL
   IVF:
                                                                  2,901 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,360 mL
   Urine:
                                                                  3,390 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    407 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 285 (267 - 516) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 178
   PIP: 15 cmH2O
   SpO2: 100%
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement: No
   spontaneous movement, Sedated, Tone: Normal
   Labs / Radiology
   599 K/uL
   9.7 g/dL
   65 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.6 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   28.1 %
   8.6 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
   WBC
   10.2
   8.9
   10.3
   8.6
   Hct
   27.2
   27.5
   28.3
   28.1
   Plt
   [**Telephone/Fax (3) 2993**]99
   599
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   34
   35
   35
   Glucose
   99
   81
   106
   81
   65
   Other labs: PT / PTT / INR:13.5/61.4/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 have shown persistent epileptiform activity
   from a focus in the left cerebral hemisphere, without ability for
   continuous EEG monitoring
 unclear timing of EEG with regard to
   convulsive episodes.  Unclear etiology.  Her prior CVA are likely
   responsible.  There were electrolyte abnormalities on admission,
   however, the patient persisted with seizures after correction.  She had
   no history of head trauma and CT head x 2 showed multiple old ischemic
   changes but no new process.  Patient has history of cancer and may have
   metastasis
 MRI was not performed at OSH.  Infectious evaluation as
   below
 LP not performed at OSH, LP negative on admission here,
   although has been on antibiotics.  Home medications not known to
   contribute to seizure activity.  No report of toxicology screen on
   admission to OSH. No clot by ECHO. EEG no seizure, discontinued
   phenobarbitol. MRI no encephalitis acyclovir stopped.
   - Neurology recs appreciated
   - Continue phenytoin
   - On heparin for new embolic stroke.
   - Vancomycin, ceftriaxone, ampicillin for empiric course *14 days
   # Fevers, leukocytosis: Unclear etiology - seizures versus infection.
   OSH BAL from admission grew only yeast, urine and blood cultures
   negative.  RIJ in place since [**12-2**] without erythema or discharge.
   Patient initially on diflucan, ceftriaxone, and clindamycin for
   aspiration, but changed to zosyn and linezolid at some point prior to
   transfer.  Patient has not received an LP. . Changed OSH RIJ
   - Vancomycin, ceftriaxone, ampicillin * 14 days
   - Lumbar puncture [**12-8**] negative
   - Chest x-ray effusion in right lung, f/u sputum
 rare GPCs, on
   vancomycin anyway, unlikely pathologic
   - Sputum, urine, blood cultures - NGTD
   # Respiratory failure: Intubated for airway protection in the setting
   of aspiration.  Was treated for aspiration pneumonia with ceftriaxone
   and clindamycin for an unknown course.  Chest x-ray on admission here
   with question retrocardiac opacity but excellent gas exchange and
   negative sputum.  No other known pulmonary disease.  Good gag with
   suction.
   - PS, RISBI 178
  stop propofol, haldol 1mg prn
   # Atrial flutter: Rate-controlled with digoxin and diltiazem.  Has been
   off recent anticoagulation.
   - Continue digoxin and diltiazem for rate control
   - On heparin gtt , given high CHADS scare
   # Anemia: Normocytic.  Hematocrit trending down at OSH from 37 to 32.
   Guaiac negative on admission.  No signs or symptoms of active
   bleeding.
   - Guaiac all stools
   - Transfuse hematocrit < 21 or active bleeding
   - Monitor
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2113-12-10**] 08:15 AM 40 mL/hour
   Glycemic Control:  Comments: insulin sliding scale
   Lines:
   18 Gauge - [**2113-12-8**] 08:39 AM
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held
   Code status: Full code
   Disposition:ICU

2113-12-10 11:08:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old woman with PMH of multiple CVA presented to OSH hospital
   with seizure, intubated for airway protection. Transfered to [**Hospital1 1**] for
   continuous EEG monitoring. EEG here negative for seizure, MRI with
   possible new infarct corresponding to seizure focous seen on OSH EEG.
   Currently weaning sedation in order to extubate.
   24 Hour Events:
   Started on RISS
   EEG final read negative for seizure, phenobarb DC's.
   Agitated o/n - restarted on propofol
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Acyclovir - [**2113-12-9**] 10:00 AM
   Ceftriaxone - [**2113-12-10**] 12:00 AM
   Ampicillin - [**2113-12-10**] 04:04 AM
   Vancomycin - [**2113-12-10**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-10**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 90 (79 - 104) bpm
   BP: 136/59(78) {121/58(69) - 169/85(103)} mmHg
   RR: 28 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  3,797 mL
                                                                  1,281 mL
   PO:
             TF:
                                                                    641 mL
                                                                    439 mL
   IVF:
                                                                  2,901 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,360 mL
   Urine:
                                                                  3,390 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    407 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 285 (267 - 516) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 178
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 8.3 L/min
   Physical Examination
   Gen: intubated and sedated
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Respiratory / Chest: (Breath Sounds: Diminished: right base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  cool, poor cap refill in feet
   Neuro: sedated, min responsive to tactile stim.
   Labs / Radiology
   9.7 g/dL
   599 K/uL
   65 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.6 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   28.1 %
   8.6 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
   WBC
   10.2
   8.9
   10.3
   8.6
   Hct
   27.2
   27.5
   28.3
   28.1
   Plt
   [**Telephone/Fax (3) 2993**]99
   599
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   34
   35
   35
   Glucose
   99
   81
   106
   81
   65
   Other labs: PT / PTT / INR:13.5/61.4/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Microbiology: sputum from [**12-7**] with sparse
   presumed S. Aureus.
   Assessment and Plan
   68 year old woman with PMH afib, multiple CVA's who presents with
   seizure in the setting of new CVA.
   1.       Seizures: Currently seizure free off phenobarb but remains on
   propafol. LP negative here but performed after multiple days of
   antibiotics at OSH and was febrile there. Completing course of empiric
   antibiotics for meningitis but will d/c acyclovir in absence of high
   suspicious and toxicity profile.
   2.  Resp Distress: Initially intubated for airway prtection but this AM
   noted to have sig increase in secretions and unable to tolerate PSV.
   Switched to AC suctioned. CXR with worsening RLL process and [**12-7**]
   sputum growing Staph, Repeat sputum with mini BAL. Keep on Vanco
   Ceftriaxone for now but double cover for GNR if any GNR on mini Bal.
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2113-12-10**] 08:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-12-8**] 08:39 AM
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: spoke with husband at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-12-11 08:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2113-12-10**] 08:56 AM
   Did not tolerate pressure support trial
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Acyclovir - [**2113-12-9**] 10:00 AM
   Ceftriaxone - [**2113-12-11**] 12:00 AM
   Ampicillin - [**2113-12-11**] 04:00 AM
   Vancomycin - [**2113-12-11**] 08:40 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-11**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 96 (85 - 100) bpm
   BP: 146/65(83) {128/59(78) - 167/86(100)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  2,816 mL
                                                                  1,125 mL
   PO:
             TF:
                                                                    964 mL
                                                                    350 mL
   IVF:
                                                                  1,642 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,055 mL
   Urine:
                                                                  2,400 mL
                                                                  1,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 285 (285 - 285) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 206
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 96%
   ABG: ///35/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   666 K/uL
   10.1 g/dL
   110 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.1 mEq/L
   10 mg/dL
   93 mEq/L
   135 mEq/L
   29.6 %
   9.9 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
   WBC
   10.2
   8.9
   10.3
   8.6
   9.9
   Hct
   27.2
   27.5
   28.3
   28.1
   29.6
   Plt
   [**Telephone/Fax (3) 2993**]99
   599
   666
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   0.7
   TCO2
   34
   35
   35
   Glucose
   99
   81
   106
   81
   65
   110
   Other labs: PT / PTT / INR:13.2/69.9/1.1, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTHYROIDISM
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 have shown persistent epileptiform activity
   from a focus in the left cerebral hemisphere, without ability for
   continuous EEG monitoring
 unclear timing of EEG with regard to
   convulsive episodes.  Unclear etiology.  Her prior CVA are likely
   responsible.  There were electrolyte abnormalities on admission,
   however, the patient persisted with seizures after correction.  She had
   no history of head trauma and CT head x 2 showed multiple old ischemic
   changes but no new process.  Patient has history of cancer and may have
   metastasis
 MRI was not performed at OSH.  Infectious evaluation as
   below
 LP not performed at OSH, LP negative on admission here,
   although has been on antibiotics.  Home medications not known to
   contribute to seizure activity.  No report of toxicology screen on
   admission to OSH. No clot by ECHO. EEG no seizure, discontinued
   phenobarbitol. MRI no encephalitis acyclovir stopped.
   - Neurology recs appreciated
   - Continue phenytoin
   - On heparin for new embolic stroke.
   - Vancomycin, ceftriaxone, ampicillin for empiric course *14 days
   # Fevers, leukocytosis: Unclear etiology - seizures versus infection.
   OSH BAL from admission grew only yeast, urine and blood cultures
   negative.  RIJ in place since [**12-2**] without erythema or discharge.
   Patient initially on diflucan, ceftriaxone, and clindamycin for
   aspiration, but changed to zosyn and linezolid at some point prior to
   transfer.  Patient has not received an LP. . Changed OSH RIJ
   - Vancomycin, ceftriaxone, ampicillin * 14 days
   - Lumbar puncture [**12-8**] negative
   - Chest x-ray effusion in right lung, f/u sputum
 rare GPCs, on
   vancomycin anyway, unlikely pathologic
   - Sputum, urine, blood cultures - NGTD
   # Respiratory failure: Intubated for airway protection in the setting
   of aspiration.  Was treated for aspiration pneumonia with ceftriaxone
   and clindamycin for an unknown course.  Chest x-ray on admission here
   with question retrocardiac opacity but excellent gas exchange and
   negative sputum.  No other known pulmonary disease.  Good gag with
   suction.
   - PS, RISBI 178
  stop propofol, haldol 1mg prn
   # Atrial flutter: Rate-controlled with digoxin and diltiazem.  Has been
   off recent anticoagulation.
   - Continue digoxin and diltiazem for rate control
   - On heparin gtt , given high CHADS scare
   # Anemia: Normocytic.  Hematocrit trending down at OSH from 37 to 32.
   Guaiac negative on admission.  No signs or symptoms of active
   bleeding.
   - Guaiac all stools
   - Transfuse hematocrit < 21 or active bleeding
   - Monitor
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2113-12-10**] 08:44 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-12-11 11:06:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old woman with PMH multiple CVA's presents with new seizure in
   the setting of L sided CVA. Please see previous notes for details.
   24 Hour Events:
   Failed PS yesterday [**1-21**] increased resistence, secretions.
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Acyclovir - [**2113-12-9**] 10:00 AM
   Ceftriaxone - [**2113-12-11**] 12:00 AM
   Ampicillin - [**2113-12-11**] 04:00 AM
   Vancomycin - [**2113-12-11**] 08:40 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-11**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 103 (85 - 103) bpm
   BP: 159/86(104) {128/59(79) - 167/86(104)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  2,818 mL
                                                                  1,262 mL
   PO:
             TF:
                                                                    965 mL
                                                                    431 mL
   IVF:
                                                                  1,642 mL
                                                                    710 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,180 mL
   Urine:
                                                                  2,400 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    418 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 206
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 99%
   ABG: ///35/
   Ve: 9.2 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   666 K/uL
   110 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.1 mEq/L
   10 mg/dL
   93 mEq/L
   135 mEq/L
   29.6 %
   9.9 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:07 PM
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
   WBC
   10.2
   8.9
   10.3
   8.6
   9.9
   Hct
   27.2
   27.5
   28.3
   28.1
   29.6
   Plt
   [**Telephone/Fax (3) 2993**]99
   599
   666
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   0.7
   TCO2
   34
   35
   35
   Glucose
   99
   81
   106
   81
   65
   110
   Other labs: PT / PTT / INR:13.2/69.9/1.1, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I would emphasize
   and add the following points:
   68 year old woman with PMH CVA presents with seizure in the setting of
   new CVA. Hx of afib s/p ablation and pacer, CT shows multiple prior
   CVAs. Now with persistent respiratory failure [**1-21**] probable VAp
   (hypoxemia, increased secretions, right sided infiltrate on CXR). On
   vanc/ceftriaxone/amp as part of empiric 14d regimen for meningitis (LP
   negative but after long period of abx). Will obtain mini-BAL now and
   add cipro today.
   Due to copious thick secretions and RSBI 206, she is not yet ready for
   extubation. On dilantin and following level. Further plans as per
   resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2113-12-11**] 09:07 AM 40 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-12-12 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Mini-BAL performed yesterday
   Had aflutter w RVR overnight, got extra IV dilt on top of PO which did
   not adequately control her rate; IV metoprolol did improve rate control
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Acyclovir - [**2113-12-9**] 10:00 AM
   Ceftriaxone - [**2113-12-12**] 12:00 AM
   Ampicillin - [**2113-12-12**] 04:00 AM
   Vancomycin - [**2113-12-12**] 07:58 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2113-12-12**] 02:33 AM
   Diltiazem - [**2113-12-12**] 04:15 AM
   Metoprolol - [**2113-12-12**] 05:10 AM
   Dilantin - [**2113-12-12**] 06:19 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-12**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 87 (87 - 118) bpm
   BP: 119/54(69) {119/54(69) - 181/95(114)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  2,943 mL
                                                                    676 mL
   PO:
             TF:
                                                                    965 mL
                                                                     13 mL
   IVF:
                                                                  1,717 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                  1,025 mL
   Urine:
                                                                  2,740 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -97 mL
                                                                   -349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 345 (345 - 345) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   Compliance: 54.1 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 6.1 L/min
   Physical Examination
   Gen:  Sedated on propofol, moves all 4 extremities however not
   currently following simple commands.  Opens eyes spontaneously
   HEENT:  PERRL, tongue swollen partially sticking out of mouth
   Neck:  Left IJ site CDI without surrounding erythema.
   CV:  Irreg, irreg.  No mrg.
   Resp:  Clear anteriorly.
   Abd:  Soft, NT, ND, no rebound/guarding.
   Ext:  WWP, multipodus boots in place, no c/c/e.
   Neurologic: As above.
   Labs / Radiology
   702 K/uL
   9.8 g/dL
   97 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.5 mEq/L
   11 mg/dL
   94 mEq/L
   135 mEq/L
   28.3 %
   11.7 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
                            [**2113-12-12**]  02:44 AM
   WBC
   8.9
   10.3
   8.6
   9.9
   11.7
   Hct
   27.5
   28.3
   28.1
   29.6
   28.3
   Plt
   [**Telephone/Fax (3) 3039**]99
   666
   702
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   34
   35
   35
   Glucose
   81
   106
   81
   65
   110
   97
   Other labs: PT / PTT / INR:14.0/74.6/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 showed persistent epileptiform activity from a
   focus in the left cerebral hemisphere, without ability for continuous
   EEG monitoring.  Continuous EEG performed here did not show
   epileptiform focus.  Her prior CVA may be responsible; however there is
   also an ambiguous new
tiny
 lesion per MRI on the left which could
   account for this.  No evidence of brain metastases. Infectious
   evaluation as below
 LP not performed at OSH, LP negative on admission
   here, although had been on antibiotics; continuing to cover CNS
   infection empirically.  Home medications not known to contribute to
   seizure activity.  No report of toxicology screen on admission to OSH.
   No clot by ECHO.  MRI showed no encephalitis and HSV PCR was negative:
   acyclovir stopped.
   - Neurology recs appreciated; will need carotid dopplers to complete
   w/u given h/o multiple strokes
   - Continue phenytoin; will reload today for level not at goal
   - On heparin for prophylaxis given high on-going stroke risk
   - Vancomycin, ceftriaxone, ampicillin for empiric course *14 days  (day
   1 is [**12-8**])
   # Fevers, leukocytosis: Still with low grade temps to as high as
   100.6.  WBC count up to 11.7 (previously nml) with 81% neutrophils, no
   bands.  Etiology not entirely clear, but pulmonary possible source
   given increased secretions over past few days (currently improved). OSH
   BAL from admission grew only yeast, urine and blood cultures from OSH
   were negative.  RIJ d/c
d on [**12-8**] and LIJ placed on [**12-8**] without
   erythema or discharge.  Patient
s LP was unrevealing but done in
   setting of antibiotics.
   - Vancomycin, ceftriaxone, ampicillin * 14 days (day 1 is [**12-8**])
   - f/u sputum; mini-BAL today
   - Sputum, urine, blood cultures - NGTD
   # Respiratory failure: Intubated for airway protection in the setting
   of seizure, altered mental status, aspiration.  Increasing secretions
   raise suspicion for new vent-associated pneumonia.  CXR with
   retrocardiac opacity, but this may represent atelectasis as opposed to
   infiltrate.  Ciprofloxacin added [**12-11**] to vanc/ceftriaxone/amp for
   double coverage of possible resistant gram negatives.
   - goal to wean propofol
   # Atrial flutter:  Had been well rate-controlled with digoxin and
   diltiazem, however with episode of RVR overnight responsive to IV
   metoprolol; now rate improved.  Has been off anticoagulation as an
   outpatient (unclear why not on coumadin given a.fib/flutter and
   multiple CVAs).
   - Continue digoxin and diltiazem for rate control
   - On heparin gtt , given high CHADS score including past strokes
   # Anemia: Normocytic however with elevated RDW.  Unclear hct baseline
   although hct has remained stable in the high 20s range.   Guaiac
   negative on admission.   No signs or symptoms of active bleeding.
   - Guaiac all stools
   - Transfuse hematocrit < 21 or active bleeding
   - Monitor
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:  Continue TFs, replete with fiber.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT:  On heparin gtt.
   Stress ulcer:   Continue PPI.
   VAP:  Continue HOB elevation and mouth care.  Concern for VAP given
   increased secretions, cipro added [**12-11**]; awaiting BAL results.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU pending improved mental status and extubation.

2113-12-12 09:56:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old woman with PMH multiple CVA admitted from OSH withseizure,
   new CVA. Please see previous notes for details.
   24 Hour Events:
   Afib with RVR o/n.
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Acyclovir - [**2113-12-9**] 10:00 AM
   Ceftriaxone - [**2113-12-12**] 12:00 AM
   Ampicillin - [**2113-12-12**] 04:00 AM
   Vancomycin - [**2113-12-12**] 07:58 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2113-12-12**] 02:33 AM
   Diltiazem - [**2113-12-12**] 04:15 AM
   Metoprolol - [**2113-12-12**] 05:10 AM
   Dilantin - [**2113-12-12**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-12**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 82 (82 - 118) bpm
   BP: 133/63(77) {119/54(69) - 181/95(114)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  2,943 mL
                                                                    721 mL
   PO:
             TF:
                                                                    965 mL
                                                                     13 mL
   IVF:
                                                                  1,717 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                  1,100 mL
   Urine:
                                                                  2,740 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -97 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 256 (256 - 345) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 6 cmH2O
   Plateau: 13 cmH2O
   Compliance: 54.1 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   9.8 g/dL
   702 K/uL
   97 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.5 mEq/L
   11 mg/dL
   94 mEq/L
   135 mEq/L
   28.3 %
   11.7 K/uL
        [image002.jpg]
                            [**2113-12-7**]  10:28 PM
                            [**2113-12-8**]  04:03 AM
                            [**2113-12-8**]  07:04 PM
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
                            [**2113-12-12**]  02:44 AM
   WBC
   8.9
   10.3
   8.6
   9.9
   11.7
   Hct
   27.5
   28.3
   28.1
   29.6
   28.3
   Plt
   [**Telephone/Fax (3) 3039**]99
   666
   702
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   34
   35
   35
   Glucose
   81
   106
   81
   65
   110
   97
   Other labs: PT / PTT / INR:14.0/74.6/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   68 year old woman with a PMH as above presents with seizure. New L
   sided infarct on MRI here. Now with persistent acute respiratory
   failure [**1-21**] new VAP. RSBI poor today though secretions decreased.
   Awaiting results of mini-BAL yesterday
 no growth. On vanc/ctx/cipro +
   amp and will complete empiric course of at least vanc+ctx+amp for
   non-diagnostic LP, fever+seizure. Afib now well rate controlled.
   Anticoagulated with heparin. On dilantin and following level. Further
   plans as per resident note.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-12-13 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Reloaded 300mg IV phenytoin
   -still with low grade temps to as high as 100.5-->sent blood and urine
   cx despite
   -no gag [**Name8 (MD) 24**] RN
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-12**] 08:25 PM
   Ceftriaxone - [**2113-12-13**] 12:00 AM
   Ampicillin - [**2113-12-13**] 04:51 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2113-12-13**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 98 (82 - 120) bpm
   BP: 157/78(99) {120/53(71) - 174/88(103)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  2,006 mL
                                                                    462 mL
   PO:
             TF:
                                                                    284 mL
                                                                     21 mL
   IVF:
                                                                  1,602 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    400 mL
   Urine:
                                                                  2,140 mL
                                                                    400 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                   -184 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 480 (256 - 480) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.53/38/114/31/9
   Ve: 8.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   711 K/uL
   9.1 g/dL
   87 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.0 mEq/L
   11 mg/dL
   94 mEq/L
   134 mEq/L
   25.1 %
   10.0 K/uL
        [image002.jpg]
                            [**2113-12-8**]  11:14 PM
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
                            [**2113-12-12**]  02:44 AM
                            [**2113-12-12**]  10:43 AM
                            [**2113-12-13**]  04:33 AM
                            [**2113-12-13**]  04:54 AM
   WBC
   10.3
   8.6
   9.9
   11.7
   10.0
   Hct
   28.3
   28.1
   29.6
   28.3
   25.1
   Plt
   [**Telephone/Fax (3) 3047**]66
   702
   711
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   35
   34
   33
   Glucose
   106
   81
   65
   110
   97
   87
   Other labs: PT / PTT / INR:14.0/79.1/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 showed persistent epileptiform activity from a
   focus in the left cerebral hemisphere, without ability for continuous
   EEG monitoring.  Continuous EEG performed here did not show
   epileptiform focus.  Her prior CVA may be responsible; however there is
   also an ambiguous new
tiny
 lesion per MRI on the left which could
   account for this.  No evidence of brain metastases. Infectious
   evaluation as below
 LP not performed at OSH, LP negative on admission
   here, although had been on antibiotics; continuing to cover CNS
   infection empirically.  Home medications not known to contribute to
   seizure activity.  No report of toxicology screen on admission to OSH.
   No clot by ECHO.  MRI showed no encephalitis and HSV PCR was negative:
   acyclovir stopped.
   - Neurology recs appreciated; will need carotid dopplers to complete
   w/u given h/o multiple strokes
   - Continue phenytoin; will reload today for level not at goal
   - On heparin for prophylaxis given high on-going stroke risk
   - Vancomycin, ceftriaxone, ampicillin for empiric course *14 days  (day
   1 is [**12-8**])
   # Fevers, leukocytosis: Still with low grade temps to as high as
   100.6.  WBC count up to 11.7 (previously nml) with 81% neutrophils, no
   bands.  Etiology not entirely clear, but pulmonary possible source
   given increased secretions over past few days (currently improved). OSH
   BAL from admission grew only yeast, urine and blood cultures from OSH
   were negative.  RIJ d/c
d on [**12-8**] and LIJ placed on [**12-8**] without
   erythema or discharge.  Patient
s LP was unrevealing but done in
   setting of antibiotics.
   - Vancomycin, ceftriaxone, ampicillin * 14 days (day 1 is [**12-8**])
   - f/u sputum; mini-BAL today
   - Sputum, urine, blood cultures - NGTD
   # Respiratory failure: Intubated for airway protection in the setting
   of seizure, altered mental status, aspiration.  Increasing secretions
   raise suspicion for new vent-associated pneumonia.  CXR with
   retrocardiac opacity, but this may represent atelectasis as opposed to
   infiltrate.  Ciprofloxacin added [**12-11**] to vanc/ceftriaxone/amp for
   double coverage of possible resistant gram negatives.
   - goal to wean propofol
   # Atrial flutter:  Had been well rate-controlled with digoxin and
   diltiazem, however with episode of RVR overnight responsive to IV
   metoprolol; now rate improved.  Has been off anticoagulation as an
   outpatient (unclear why not on coumadin given a.fib/flutter and
   multiple CVAs).
   - Continue digoxin and diltiazem for rate control
   - On heparin gtt , given high CHADS score including past strokes
   # Anemia: Normocytic however with elevated RDW.  Unclear hct baseline
   although hct has remained stable in the high 20s range.   Guaiac
   negative on admission.   No signs or symptoms of active bleeding.
   - Guaiac all stools
   - Transfuse hematocrit < 21 or active bleeding
   - Monitor
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-12-13 10:25:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old woman with PMH CVA presents with seizure and fever in the
   setting of new CVA. Please see previous notes for details.
   24 Hour Events:
 BLOOD CULTURED - At [**2113-12-13**] 05:56 AM
 URINE CULTURE - At [**2113-12-13**] 05:56 AM
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-12-13**] 12:00 AM
   Ampicillin - [**2113-12-13**] 04:51 AM
   Vancomycin - [**2113-12-13**] 07:55 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2113-12-13**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-13**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 103 (92 - 120) bpm
   BP: 142/62(82) {120/53(71) - 174/88(103)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  2,006 mL
                                                                    827 mL
   PO:
             TF:
                                                                    284 mL
                                                                     21 mL
   IVF:
                                                                  1,602 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    725 mL
   Urine:
                                                                  2,140 mL
                                                                    725 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                   -184 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 480 (480 - 480) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.52/39/118/31/8
   Ve: 8.6 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   711 K/uL
   87 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.0 mEq/L
   11 mg/dL
   94 mEq/L
   134 mEq/L
   25.1 %
   10.0 K/uL
        [image002.jpg]
                            [**2113-12-9**]  05:15 AM
                            [**2113-12-9**]  06:17 AM
                            [**2113-12-9**]  06:01 PM
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
                            [**2113-12-12**]  02:44 AM
                            [**2113-12-12**]  10:43 AM
                            [**2113-12-13**]  04:33 AM
                            [**2113-12-13**]  04:54 AM
                            [**2113-12-13**]  08:51 AM
   WBC
   10.3
   8.6
   9.9
   11.7
   10.0
   Hct
   28.3
   28.1
   29.6
   28.3
   25.1
   Plt
   499
   599
   666
   702
   711
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   35
   34
   33
   33
   Glucose
   106
   81
   65
   110
   97
   87
   Other labs: PT / PTT / INR:14.0/79.1/1.2, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   68 year old woman with PMH of CVA, tonsillar [**Hospital **] transferred from
   [**Hospital1 327**] with seizure, fever, and acute respiratory failure, intubated
   for airway protection. Seizure likely secondary to new CVA but
   completing 14 day course of empiric vanc/cftx/ampicillin for meningitis
   given that LP was obtained multiple days into course of antibiotics.
   Appears ready for extubation today. MiniBAL showed no growth on
   culture. Anticoagulated for afib. Rate controlled on dig/dilt. No
   evidence of ongoing seizure activity. Continue dilantin
 to be
   re-loaded today. PTU for hyperthyroidism, but this will need to be
   readressed. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: on hold for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2113-12-14 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2113-12-13**] 12:15 PM
   [**12-13**] extubated w/o complications
   Patient unable to provide history: Encephalopathy
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-13**] 07:55 AM
   Ceftriaxone - [**2113-12-14**] 12:19 AM
   Ampicillin - [**2113-12-14**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Dilantin - [**2113-12-14**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-14**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 86 (75 - 113) bpm
   BP: 119/26(43) {110/26(43) - 177/85(99)} mmHg
   RR: 19 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,791 mL
                                                                    378 mL
   PO:
             TF:
                                                                     21 mL
   IVF:
                                                                  1,651 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    355 mL
   Urine:
                                                                  1,745 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     46 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 441 (441 - 441) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.54/38/105/27/9
   Ve: 6.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   866 K/uL
   9.8 g/dL
   122 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.0 mEq/L
   10 mg/dL
   100 mEq/L
   139 mEq/L
   28.0 %
   9.7 K/uL
        [image002.jpg]
                            [**2113-12-10**]  04:54 AM
                            [**2113-12-11**]  03:45 AM
                            [**2113-12-12**]  02:44 AM
                            [**2113-12-12**]  10:43 AM
                            [**2113-12-13**]  04:33 AM
                            [**2113-12-13**]  04:54 AM
                            [**2113-12-13**]  08:51 AM
                            [**2113-12-13**]  11:05 AM
                            [**2113-12-13**]  05:03 PM
                            [**2113-12-14**]  04:29 AM
   WBC
   8.6
   9.9
   11.7
   10.0
   9.7
   Hct
   28.1
   29.6
   28.3
   25.1
   27.6
   28.0
   Plt
   599
   666
   702
   711
   866
   Cr
   0.7
   0.7
   0.7
   0.8
   0.8
   TCO2
   34
   33
   33
   34
   Glucose
   65
   110
   97
   87
   122
   Other labs: PT / PTT / INR:14.9/68.3/1.3, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, Ca++:9.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 showed persistent epileptiform activity from a
   focus in the left cerebral hemisphere, without ability for continuous
   EEG monitoring.  Continuous EEG performed here did not show
   epileptiform focus.  Her prior CVA may be responsible; however there is
   also an ambiguous new
tiny
 lesion per MRI on the left which could
   account for this.  No evidence of brain metastases. Infectious
   evaluation as below
 LP not performed at OSH, LP negative on admission
   here, although had been on antibiotics; continuing to cover CNS
   infection empirically.  Home medications not known to contribute to
   seizure activity.  No report of toxicology screen on admission to OSH.
   No clot by ECHO.  MRI showed no encephalitis and HSV PCR was negative:
   acyclovir stopped.
   - Neurology recs appreciated
   - Continue phenytoin; will reload today for level not at goal
   - On heparin for prophylaxis given high on-going stroke risk
   - Vancomycin, ceftriaxone, ampicillin for empiric course *14 days  (day
   1 is [**12-8**])
   # Fevers, leukocytosis: Still with low grade temps to as high as
   100.6.  WBC count up to 11.7 (previously nml) with 81% neutrophils, no
   bands.  Etiology not entirely clear, but pulmonary possible source
   given increased secretions over past few days (currently improved). OSH
   BAL from admission grew only yeast, urine and blood cultures from OSH
   were negative.  RIJ d/c
d on [**12-8**] and LIJ placed on [**12-8**] without
   erythema or discharge.  Patient
s LP was unrevealing but done in
   setting of antibiotics.
   - Vancomycin, ceftriaxone, ampicillin * 14 days (day 1 is [**12-8**])
   - Sputum, urine, blood cultures - NGTD
   # Respiratory failure: Intubated for airway protection in the setting
   of seizure, altered mental status, aspiration.  Increasing secretions
   raise suspicion for new vent-associated pneumonia.  CXR with
   retrocardiac opacity, but this may represent atelectasis as opposed to
   infiltrate.  Ciprofloxacin added [**12-11**] to vanc/ceftriaxone/amp for
   double coverage of possible resistant gram negatives.
   - goal to extubate today
   # Atrial flutter:  Had been well rate-controlled with digoxin and
   diltiazem, however with episode of RVR overnight responsive to IV
   metoprolol; now rate improved.  Has been off anticoagulation as an
   outpatient (unclear why not on coumadin given a.fib/flutter and
   multiple CVAs).
   - Continue digoxin and diltiazem for rate control
   - On heparin gtt , given high CHADS score including past strokes
   # Anemia: Normocytic however with elevated RDW.  Unclear hct baseline
   although hct has remained stable in the high 20s range.   Guaiac
   negative on admission.   No signs or symptoms of active bleeding.
   - check pm HCT todat as 3 pt hct drop o/n
   - Transfuse hematocrit < 21 or active bleeding
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-12-15 07:45:00 Physician Resident Progress Note
Chief Complaint:  No complaints.
   24 Hour Events:
   Antibiotics discontinued yesterday.
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-13**] 07:55 AM
   Ceftriaxone - [**2113-12-14**] 12:16 PM
   Ampicillin - [**2113-12-14**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Dilantin - [**2113-12-15**] 04:24 AM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-15**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 96 (78 - 106) bpm
   BP: 157/89(106) {129/58(74) - 169/102(111)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,550 mL
                                                                    512 mL
   PO:
             TF:
                                                                    101 mL
                                                                    254 mL
   IVF:
                                                                  1,119 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    485 mL
   Urine:
                                                                  1,620 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                     27 mL
   Respiratory support
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen:  Awake, alert.  Does not follow simple commands however moves all
   4 extremities spontaneously intermittently.  Mumbles, but unable to
   comprehend clear words.
   HEENT:  PERRL.
   CV:  RRR, no mrg appreciated.
   Resp:  Coarse upper airway BS anteriorly.  No wheezes.
   Abd:  +BS, soft, NT.
   Ext:  No c/c/e.
   Labs / Radiology
   988 K/uL
   10.6 g/dL
   122 mg/dL
   0.7 mg/dL
   30
   4.2 mEq/L
   8
   100 mEq/L
   140 mEq/L
   31.5 %
   10.9 K/uL
        [image002.jpg]
                            [**2113-12-11**]  03:45 AM
                            [**2113-12-12**]  02:44 AM
                            [**2113-12-12**]  10:43 AM
                            [**2113-12-13**]  04:33 AM
                            [**2113-12-13**]  04:54 AM
                            [**2113-12-13**]  08:51 AM
                            [**2113-12-13**]  11:05 AM
                            [**2113-12-13**]  05:03 PM
                            [**2113-12-14**]  04:29 AM
                            [**2113-12-15**]  04:31 AM
   WBC
   9.9
   11.7
   10.0
   9.7
   10.9
   Hct
   29.6
   28.3
   25.1
   27.6
   28.0
   31.5
   Plt
   666
   702
   711
   866
   988
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   34
   33
   33
   34
   Glucose
   110
   97
   87
   122
   Other labs: PT / PTT / INR:14.9/68.3/1.3, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, Ca++:9.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 showed persistent epileptiform activity from a
   focus in the left cerebral hemisphere, without ability for continuous
   EEG monitoring.  Continuous EEG performed here did not show
   epileptiform focus.  Her prior CVA may be responsible; however there is
   also an ambiguous new
tiny
 lesion per MRI on the left which could
   account for this.  No evidence of brain metastases.  LP not performed
   at OSH, LP negative on admission here, although had been on
   antibiotics.  She is now s/p 14d amp/vanco/ctx.  No report of
   toxicology screen on admission to OSH.  No clot by ECHO.  MRI showed no
   encephalitis and HSV PCR was negative: acyclovir stopped.
   - Neurology recs appreciated
   - Continue phenytoin; will repeat level in am after recent dose change
   - On heparin for prophylaxis given high on-going stroke risk
   - s/p 14 day empiric course of vancomycin, ceftriaxone, ampicillin
   # Altered mental status:  Remains intermittently somnolent vs.
   agitated.  Is alert when awake, but does not follow commands and
   currently speaking is incomprehensible.  MRI with only tiny ? of
   infarct and seems unlikely full cause of current mental status.  ?
   post  nonconvulsive status prior to transfer here.  Delirium certainly
   playing large role given critical illness, prolonged ICU course and
   just off of sedating meds post extubation.
   - avoid sedating meds as possible even in setting of agitation
   # Fevers:  Afebrile x 24 hours.  Had been having daily low grade temps
   which may have been due to medications/antibiotics as she has been
   afebrile since discontinuation of abx.  Briefly had increased
   secretions while intubated which improved post extubation and after 4
   days course of ciprofloxacin.  OSH BAL from admission grew only yeast,
   urine and blood cultures from OSH were negative.   Sputum culture here
   grew sparse MRSA but without infiltrate on CXR.  RIJ d/c
d on [**12-8**] and
   LIJ placed on [**12-8**] without erythema or discharge.  Patient
s LP was
   unrevealing but done in setting of antibiotics.
   - off antibiotics since [**12-14**]
   - f/u outstanding culture data
   # Respiratory failure:  Stable respiratory status since extubation on
   [**12-13**].  Was initially intubated for airway protection in the setting of
   seizure, altered mental status, aspiration.  Increasing secretions
   raised suspicion for new vent-associated pneumonia, but CXR without
   clear infiltrate and had no secretions prior to extubation.
   Ciprofloxacin added [**12-11**] to vanc/ceftriaxone/amp for double coverage
   of possible resistant gram negatives; all abx discontinued [**12-14**].
   - continue to monitor respiratory status
   # Atrial flutter:  Improved rate control with the addition of atenolol
   back to digoxin and diltiazem.  Has been off anticoagulation as an
   outpatient (unclear why not on coumadin given a.fib/flutter and
   multiple CVAs).
   - Continue digoxin, diltiazem, atenolol for rate control
   - On heparin gtt , given high CHADS score including past strokes
   - will start coumadin as she will need to be bridged; will need to
   follow phenytoin levels as can interact
   # Anemia: Normocytic however with elevated RDW.  Unclear hct baseline
   although hct has remained stable in the high 20s range.   Guaiac
   negative on admission.   No signs or symptoms of active bleeding.
   - check pm HCT todat as 3 pt hct drop o/n
   - Transfuse hematocrit < 21 or active bleeding
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2113-12-15**] 04:48 AM 40 mL/hour
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   Prophylaxis:
   DVT:   On heparin gtt.
   Stress ulcer:   On PPI as outpatient.
   Code status: Full code
   Disposition:  Possibly to floor this pm.

2113-12-16 08:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events overnight.
   History obtained from Overnight resident
   Allergies:
   History obtained from Overnight residentErbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-12-14**] 12:16 PM
   Ampicillin - [**2113-12-14**] 04:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2113-12-15**] 12:00 PM
   Lorazepam (Ativan) - [**2113-12-15**] 01:00 PM
   Pantoprazole (Protonix) - [**2113-12-15**] 06:01 PM
   Dilantin - [**2113-12-15**] 08:15 PM
   Hydralazine - [**2113-12-15**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-16**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 121 (84 - 121) bpm
   BP: 169/71(98) {143/54(75) - 186/102(119)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  1,210 mL
                                                                    256 mL
   PO:
             TF:
                                                                    379 mL
   IVF:
                                                                    530 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    530 mL
   Urine:
                                                                  1,765 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -555 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/47/70/26/5
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Tender: mild diffuse tenderness
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   956 K/uL
   10.6 g/dL
   111 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.0 mEq/L
   12 mg/dL
   101 mEq/L
   140 mEq/L
   30.9 %
   11.3 K/uL
        [image002.jpg]
                            [**2113-12-12**]  10:43 AM
                            [**2113-12-13**]  04:33 AM
                            [**2113-12-13**]  04:54 AM
                            [**2113-12-13**]  08:51 AM
                            [**2113-12-13**]  11:05 AM
                            [**2113-12-13**]  05:03 PM
                            [**2113-12-14**]  04:29 AM
                            [**2113-12-15**]  04:31 AM
                            [**2113-12-15**]  01:38 PM
                            [**2113-12-16**]  02:30 AM
   WBC
   10.0
   9.7
   10.9
   11.3
   Hct
   25.1
   27.6
   28.0
   31.5
   30.9
   Plt
   [**Telephone/Fax (3) 3105**]56
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   34
   33
   33
   34
   32
   Glucose
   87
   122
   125
   111
   Other labs: PT / PTT / INR:15.6/81.1/1.4, ALT / AST:34/28, Alk Phos / T
   Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:9.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, no known history of seizures transferred from
   [**Hospital 327**] Hospital with seizures and fevers.
   # Seizures: OSH EEG x 3 showed persistent epileptiform activity from a
   focus in the left cerebral hemisphere, without ability for continuous
   EEG monitoring.  Continuous EEG performed here did not show
   epileptiform focus.  Her prior CVA may be responsible; however there is
   also an ambiguous new
tiny
 lesion per MRI on the left which could
   account for this.  No evidence of brain metastases.  LP not performed
   at OSH, LP negative on admission here, although had been on
   antibiotics.  She is now s/p 14d amp/vanco/ctx.  No report of
   toxicology screen on admission to OSH.  No clot by ECHO.  MRI showed no
   encephalitis and HSV PCR was negative: acyclovir stopped.
   - Neurology recs appreciated
   - Continue phenytoin; will repeat level in am after recent dose change
   - On heparin for prophylaxis given high on-going stroke risk
   - s/p 14 day empiric course of vancomycin, ceftriaxone, ampicillin
   # Altered mental status:  Remains intermittently somnolent vs.
   agitated.  Is alert when awake, but does not follow commands and
   currently speaking is incomprehensible.  MRI with only tiny ? of
   infarct and seems unlikely full cause of current mental status.  ?
   post  nonconvulsive status prior to transfer here.  Delirium certainly
   playing large role given critical illness, prolonged ICU course and
   just off of sedating meds post extubation.
   - avoid sedating meds as possible even in setting of agitation
   # Fevers:  Afebrile x 24 hours.  Had been having daily low grade temps
   which may have been due to medications/antibiotics as she has been
   afebrile since discontinuation of abx.  Briefly had increased
   secretions while intubated which improved post extubation and after 4
   days course of ciprofloxacin.  OSH BAL from admission grew only yeast,
   urine and blood cultures from OSH were negative.   Sputum culture here
   grew sparse MRSA but without infiltrate on CXR.  RIJ d/c
d on [**12-8**] and
   LIJ placed on [**12-8**] without erythema or discharge.  Patient
s LP was
   unrevealing but done in setting of antibiotics.
   - off antibiotics since [**12-14**]
   - f/u outstanding culture data
   # Respiratory failure:  Stable respiratory status since extubation on
   [**12-13**].  Was initially intubated for airway protection in the setting of
   seizure, altered mental status, aspiration.  Increasing secretions
   raised suspicion for new vent-associated pneumonia, but CXR without
   clear infiltrate and had no secretions prior to extubation.
   Ciprofloxacin added [**12-11**] to vanc/ceftriaxone/amp for double coverage
   of possible resistant gram negatives; all abx discontinued [**12-14**].
   - continue to monitor respiratory status
   # Atrial flutter:  Improved rate control with the addition of atenolol
   back to digoxin and diltiazem.  Has been off anticoagulation as an
   outpatient (unclear why not on coumadin given a.fib/flutter and
   multiple CVAs).
   - Continue digoxin, diltiazem, atenolol for rate control
   - On heparin gtt , given high CHADS score including past strokes
   - will start coumadin as she will need to be bridged; will need to
   follow phenytoin levels as can interact
   # Anemia: Normocytic however with elevated RDW.  Unclear hct baseline
   although hct has remained stable in the high 20s range.   Guaiac
   negative on admission.   No signs or symptoms of active bleeding.
   - check pm HCT todat as 3 pt hct drop o/n
   - Transfuse hematocrit < 21 or active bleeding
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Recheck TFTs in AM
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation.  No acute
   issues.
   - Monitor
   ICU Care
   Nutrition: Likely will need PEG tube. TFs held due to aspiration risk.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-12-8**] 01:10 PM
   18 Gauge - [**2113-12-16**] 02:46 AM
   20 Gauge - [**2113-12-16**] 02:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-12-17 08:01:00 Physician Resident Progress Note
Chief Complaint: Seizures and fever
   24 Hour Events:
 MULTI LUMEN - STOP [**2113-12-16**] 01:00 PM
 EKG - At [**2113-12-16**] 04:30 PM
   Allergies:
   Erbitux (Intraven) (Cetuximab)
   Encephalopathy
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-12-14**] 12:16 PM
   Ampicillin - [**2113-12-14**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-16**] 06:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-17**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 99 (80 - 120) bpm
   BP: 144/63(82) {109/52(65) - 174/92(110)} mmHg
   RR: 24 (13 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  1,490 mL
                                                                    541 mL
   PO:
             TF:
   IVF:
                                                                  1,070 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  1,101 mL
                                                                    370 mL
   Urine:
                                                                  1,101 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    389 mL
                                                                    171 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin, muscle wasting
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed, does not voluntarily moves extremities
   Labs / Radiology
   932 K/uL
   11.5 g/dL
   96 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   15 mg/dL
   104 mEq/L
   139 mEq/L
   34.8 %
   9.3 K/uL
        [image002.jpg]
                            [**2113-12-13**]  04:54 AM
                            [**2113-12-13**]  08:51 AM
                            [**2113-12-13**]  11:05 AM
                            [**2113-12-13**]  05:03 PM
                            [**2113-12-14**]  04:29 AM
                            [**2113-12-15**]  04:31 AM
                            [**2113-12-15**]  01:38 PM
                            [**2113-12-16**]  02:30 AM
                            [**2113-12-16**]  02:00 PM
                            [**2113-12-17**]  04:05 AM
   WBC
   9.7
   10.9
   11.3
   9.3
   Hct
   27.6
   28.0
   31.5
   30.9
   33.7
   34.8
   Plt
   [**Telephone/Fax (3) 3112**]32
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   33
   33
   34
   32
   Glucose
   122
   125
   111
   96
   Other labs: PT / PTT / INR:19.6/100.9/1.8, ALT / AST:34/28, Alk Phos /
   T Bili:119/0.3, Differential-Neuts:81.3 %, Lymph:12.3 %, Mono:3.1 %,
   Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:10.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: IMPRESSION: Overall unchanged compared to prior study, without
   evidence of
   focal consolidation suggestive of pneumonia.
   Microbiology: Staph Aureus from sputum, no other new growth
   Assessment and Plan
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERATION IN NUTRITION
 DIARRHEA
 ALTERATION IN TISSUE PERFUSION
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 ATRIAL FLUTTER (AFLUTTER)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTHYROIDISM
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   .
   68 year-old female with history of cerebrovascular accident x 3,
   tonsillar carcinoma, transferred from [**Hospital 327**] Hospital with new onset
   seizures and fevers, has completed 2 week course of empiric abx
   treatment for HAP, currently doing well.
   .
   # Seizures: OSH EEG x 3 showed persistent epileptiform activity from a
   focus in the left cerebral hemisphere, without ability for continuous
   EEG monitoring.  Continuous EEG performed here did not show
   epileptiform focus.  Her prior CVA may be responsible; however there is
   also an ambiguous new
tiny
 lesion per MRI on the left which could
   account for this.  No evidence of brain metastases.  LP not performed
   at OSH, LP negative on admission here, although had been on
   antibiotics.  She is now s/p 14d amp/vanco/ctx.  No report of
   toxicology screen on admission to OSH.  No clot by ECHO.  MRI showed no
   encephalitis and HSV PCR was negative: acyclovir stopped.
   - Neurology recs appreciated
   - Continue phenytoin; will repeat level Monday AM after recent dose
   change
   - On anticoagulation for prophylaxis given high on-going stroke risk
   - s/p 14 day empiric course of vancomycin, ceftriaxone, ampicillin
   .
   # Altered mental status:  Was agitated yesterday. Delirium certainly
   playing large role given critical illness, prolonged ICU course and
   just off of sedating meds post extubation. Unclear if this is pt
s new
   baseline. Improved today. MRI with only tiny ? of infarct and seems
   unlikely full cause of current mental status.
   - d/w family regarding underlying mental status
   .
   # Atrial flutter:  Improved rate control with the addition of atenolol
   back to digoxin and diltiazem.  Has been off anticoagulation as an
   outpatient (unclear why not on coumadin given a.fib/flutter and
   multiple CVAs).
   - Continue digoxin, diltiazem, atenolol for rate control
   - titrate up diltiazem as needed for rate control
   - On heparin gtt , given high CHADS score including past strokes
   - coumadin started
   - monitor PTT/INR
   .
   # Anemia: Normocytic -  Unclear baseline. Guaiac negative on
   admission.  Stable.
   - daily HCT
   - Transfuse hematocrit < 21 or active bleeding
   # Hyperthyroidism: Unclear etiology - Grave's disease versus
   functioning nodule(s). TSH 1.9, Free T4 0.56 during this acute illness
   - Recheck TFTs in AM
   - Continue propylthiouracil
   # Squamous cell tonsillar cancer: Status post chemoradiation, difficult
   intubation.  No acute issues.
   # Code: FULL
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-12-16**] 02:46 AM
   20 Gauge - [**2113-12-16**] 02:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: